US04794186
10.9 g of ethyl (Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetate are dissolved in 25 ml of dimethylsulfoxide, and a solution of 14 g of anhydrous potassium carbonate in 13 ml of water is added thereto at a temperature of 15° to 20° C. The mixture is stirred at the same temperature for 20 minutes. 10 g of 3-bromo-2-pyrrolidone are added to said mixture at room temperature, and the mixture is stirred at the same temperature for 1.5 hours. 120 ml of water are added to the reaction mixture, and the aqueous mixture is stirred with ice-cooling. Crystalline precipitates are collected by filtration, and the crystals are washed with water and then dried at 40° C. 13 g of ethyl (Z)-2-(2-aminothiazol-4-yl)-2-[(2-pyrrolidon-3yl)oxyimino]acetate are obtained. The physico-chemical properties of this product are identical sith those of the product obtained in Example 2-(3).

reactant | ethyl (Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetate | 10.9 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/O | C7H9N3O3S
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-2-pyrrolidone | 10 g | BrC1C(NCC1)=O | C4H6BrNO
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | water | 13 ml | O | H2O
solvent | water | 120 ml | O | H2O
product | ethyl (Z)-2-(2-aminothiazol-4-yl)-2-[(2-pyrrolidon-3yl)oxyimino]acetate | 13 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC1C(NCC1)=O | C11H14N4O4S
